US09291908B2
4-hydroxybenzene sulfonyl chloride synthesized in Synthetic example 1 (3.76 g, 19.5 mmol, and 1.00 Eq) was dissolved in acetone (50 mL) and then water (50 mL) was added thereto. The obtained mixed solution was cooled to 0° C. and NaN3 (1.41 g, 21.7 mmol, and 1.11 Eq) was added to the solution slowly, followed by stirring at 0° C. for 1 hour. After the stirring, acetone was removed by the evaporator (30° C., 150 mbar) and a water layer was extracted with dichloromethane (3×30 mL). The obtained organic layer was dried with sodium sulfate and dichloromethane was removed by the evaporator. The product as oil (3.06 g, 15.4 mmol, and 79%) was dried in vacuo to obtain 4-hydroxybenzenesulfonyl azide.

reactant | 4-hydroxybenzene sulfonyl chloride | OC1=CC=C(C=C1)S(=O)(=O)Cl | C6H5ClO3S
reactant | water | 50 mL | O | H2O
reactant | NaN3 | 21.7 mmol, 1.41 g, 1.11 Eq | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4-hydroxybenzenesulfonyl azide | OC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C6H5N3O3S
